US07276606B2
[6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(3-trifluoromethyl-phenyl)-methanone was prepared from phenanthridine, 3-trifluoromethylbenzoyl chloride, and indole according to GP 2. Yield, 3%. 1H-NMR (DMSO-d6): δ=6.24 (d, J=1.9 Hz, 1H), 6.38 (s, br., 1H), 6.82 (t, J=7.5 Hz, 1H), 7.01-7.10 (m, 2H), 7.15 (t, J=7.6 Hz, 1H), 7.20-7.32 (m, 2H), 7.40-7.60 (m, 6H), 7.74 (d, J=7.3 Hz, 1H), 7.88 (d, br., J=7 Hz, 1H), 8.00 (d, J=7.6 Hz, 1H), 8.13 (d, J=7.6 Hz, 1H), 10.73 (s, 1H); (+)-ESI-MS: m/z=469 [M+H]+, 352 [M-indole+H]+; (−)-ESI-MS: m/z=467 (M−H)−.

reactant | phenanthridine | C1=CC=CC2=NC=C3C=CC=CC3=C12 | C13H9N
reactant | 3-trifluoromethylbenzoyl chloride | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
reactant | indole | N1C=CC2=CC=CC=C12 | C8H7N
product | [6-(1H-Indol-3-yl)-6H-phenanthridin-5-yl]-(3-trifluoromethyl-phenyl)-methanone | N1C=C(C2=CC=CC=C12)C1N(C=2C=CC=CC2C2=CC=CC=C12)C(=O)C1=CC(=CC=C1)C(F)(F)F | C29H19F3N2O
